US06927222B2
ii) N-[5-Chloro-2-(2-oxiranylmethoxy)phenyl]urea
A suspension of N-(5-chloro-2-hydroxyphenyl)urea (53 mg, 0.28 mmol), cesium carbonate (92 mg, 0.28 mmol) and epibromohydrine (49 mg, 0.36 mmol) in dry DMF (0.6 mL) was stirred at room temperature for 24 hours. The mixture was then partitioned between ethyl acetate and water. The organic phase was washed with water three times, dried and concentrated to a solid residue. This crude product was recrystallized (ethyl ether and heptane to afford the subtitle compound (18 mg, 26.5%).

reactant | N-(5-chloro-2-hydroxyphenyl)urea | 0.28 mmol, 53 mg | ClC=1C=CC(=C(C1)NC(=O)N)O | C7H7ClN2O2
reactant | cesium carbonate | 0.28 mmol, 92 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | epibromohydrine | 0.36 mmol, 49 mg | C(Br)C1CO1 | C3H5BrO
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | N-[5-Chloro-2-(2-oxiranylmethoxy)phenyl]urea | 18 mg, 26.5% | ClC=1C=CC(=C(C1)NC(=O)N)OCC1OC1 | C10H11ClN2O3
